US07781588B1
Part A: Preparation of 9-butylacridine
To an ice-cooled solution of acridine (24.8 g, 0.139 mol) and TMEDA (N,N,N′,N′-tetramethylethylenediamine) (5.0 ml, 0.034 mol) in THF (160 mL), was slowly added 2.5 M n-butyllithium in hexanes (162 mL, 0.405 mol). The resulting solution was stirred at 0° C. for 2 hours and quenched with water. After stirring for an additional 0.5 hour, the reaction mixture was poured into ice-water and extracted with ethyl acetate. The organic layer was washed with water several times and dried over MgSO4. Removal of solvent afforded a residue. This residue was taken up in acetonitrile (700 mL) and treated with potassium ferricyanide (198.0 g, 0.601 mol) aqueous solution (1110 mL) containing potassium hydroxide (99.0 g, 1.764 mol) for about 42 hours at room temperature. The mixture was extracted with ethyl acetate and dried over MgSO4. After evaporation of the solvent, the crude product was purified by chromatography on silica gel (hexanes:ethyl acetate=10:1 as eluent) to afford 27.0 g (83%) of yellow powder.

reactant | acridine | 0.139 mol, 24.8 g | C1=CC=CC2=NC3=CC=CC=C3C=C12 | C13H9N
reactant | TMEDA | 0.034 mol, 5.0 ml | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | potassium hydroxide | 1.764 mol, 99.0 g | [OH-].[K+]
solvent | THF | 160 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 700 mL | C(C)#N | C2H3N
catalyst | potassium ferricyanide | 0.601 mol, 198.0 g | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
product | 9-butylacridine | 27.0 g, 83% | C(CCC)C=1C2=CC=CC=C2N=C2C=CC=CC12 | C17H17N
